US07666878B2
To a solution of (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester (0.06 g, 0.294 mmol) in DMF (0.5 mL) is added a solution of BEMP (0.136 mL, 0.47 mmol) in DMF (0.5 mL). After 1 hour, a solution of 3-chloro-4-methyl-benzenesulfonyl chloride (0.105 g, 0.47 mmol) in DMF (0.5 mL) is added. The reaction mixture is stirred at room temperature overnight, then concentrated under reduced pressure to a minimum volume. The residue is loaded on a pre-packed Isolute™ silica column and eluted using a gradient eluent from 100% iso-hexane to 30% ethyl acetate in iso-hexane to afford [1-(3-chloro-4-methyl-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester; MH+=393.

reactant | (2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl)-acetic acid methyl ester | 0.294 mmol, 0.06 g | COC(CC1=C(NC2=NC=CC=C21)C)=O | C11H12N2O2
reactant | BEMP | 0.47 mmol, 0.136 mL | CCN(CC)P1(=NC(C)(C)C)N(CCCN1C)C | C13H31N4P
reactant | 3-chloro-4-methyl-benzenesulfonyl chloride | 0.47 mmol, 0.105 g | ClC=1C=C(C=CC1C)S(=O)(=O)Cl | C7H6Cl2O2S
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | [1-(3-chloro-4-methyl-benzenesulfonyl)-2-methyl-1H-pyrrolo[2,3-b]pyridin-3-yl]-acetic acid methyl ester | COC(CC1=C(N(C2=NC=CC=C21)S(=O)(=O)C2=CC(=C(C=C2)C)Cl)C)=O | C18H17ClN2O4S
